US07179822B2
Step (a): {4-[5-(3-bromophenyl)tetrazol-2-ylmethyl]benzyl}phosphonic acid dimethyl ester
To a solution of 5-(3-bromophenyl)-2H-tetrazole (0.5 g, 2.22 mmol) in DMF (15 mL) was added cesium carbonate (0.94 g, 2.89) and the mixture stirred at room temperature for 15 minutes. To this was added (4-bromo-methylbenzyl) phosphonic acid dimethyl ester (0.85 g, 3.05 mmol) and the reaction mixture stirred over night at room temperature. The reaction mixture was diluted with ethyl acetate, washed with water, brine, dried over MgSO4, filtered, and the evaporated to dryness.

reactant | 5-(3-bromophenyl)-2H-tetrazole | 2.22 mmol, 0.5 g | BrC=1C=C(C=CC1)C=1N=NNN1 | C7H5BrN4
reactant | cesium carbonate | 0.94 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (4-bromo-methylbenzyl) phosphonic acid dimethyl ester | 3.05 mmol, 0.85 g | COP(OC)(=O)C(C1=CC=C(C=C1)Br)C | C10H14BrO3P
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {4-[5-(3-bromophenyl)tetrazol-2-ylmethyl]benzyl}phosphonic acid dimethyl ester | COP(OC)(=O)CC1=CC=C(C=C1)CN1N=C(N=N1)C1=CC(=CC=C1)Br | C17H18BrN4O3P
